US04303660
5-(o-Aminophenyl)-4-nitropyrazole is reacted with p-dimethylaminobenzaldehyde as described in Example 11 to give 1-nitro-5-(p-dimethylaminophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline with a yield of 72%. M.p.: 190°-192° C.

reactant | 5-(o-Aminophenyl)-4-nitropyrazole | NC1=C(C=CC=C1)C1=C(C=NN1)[N+](=O)[O-] | C9H8N4O2
reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
product | 1-nitro-5-(p-dimethylaminophenyl)-5,6-dihydropyrazolo[1,5-c]quinazoline | yield of 72% | [N+](=O)([O-])C=1C=NN2C(NC=3C=CC=CC3C21)C2=CC=C(C=C2)N(C)C | C18H17N5O2
